* source STABILIZATOR_DE_TENSIUNE
Q_Q1         N00172 N06754 N00184 QBC846B 
Q_Q2         N00180 N10646 N00184 QBC846B 
Q_Q3         N00172 N00172 N11321 QBC807-25 
Q_Q4         N00180 N00172 N11325 QBC807-25 
Q_Q5         N12882 N00337 0 QBC846B 
V_V1         N00355 0 20V
Q_Q6         N00355 N00180 N15743 QBC846B 
Q_Q7         N00355 N15743 N14182 QBC846B 
R_R2         N06936 N00675  2k TC=0,0 
R_R3         0 N06943  3k TC=0,0 
R_RL         0 N00675  500 TC=0,0 
Q_Q8         N00337 N00337 0 QBC846B 
R_R4         N12843 N00355  1k TC=0,0 
R_R6         N06754 N00355  1k TC=0,0 
X_R7         N06936 N10646 N06943 POT PARAMS: SET=0 VALUE=3k
D_D1         0 N06754 BZX84-C2V7 
R_R8         0 N10646  5k TC=0,0 
R_R9         N11321 N00355  100 TC=0,0 
R_R10         N11325 N00355  100 TC=0,0 
Q_Q9         N00184 N12843 N12882 QBC846B 
Q_Q10         N12843 N12843 N00337 QBC846B 
R_R11         N00675 N14182  2 TC=0,0 
Q_Q11         N00180 N14182 N00675 QBC846B 
Q_Q12         N00180 N19799 0 QBC846B 
Q_Q13         N00355 N06754 N19397 QBC846B 
X_R12         0 N19799 N19397 POT PARAMS: SET=0.72 VALUE=1k
